### PR TITLE
Bump to v4.20.0

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**

### CODE REVIEW

File: SphereEversion/ToMathlib/MeasureTheory/ParametricIntervalIntegral.lean [hunk 1]
```diff
@@ -202,7 +202,7 @@ theorem hasFDerivAt_parametric_primitive_of_contDiff' {F : H → ℝ → E} (hF
     filter_upwards with t t_in
     rw [nnabs_coe K]
     exact F_lip t t_in
-  · exact integrableOn_const.mpr (Or.inr measure_Ioo_lt_top)
+  · exact (integrableOn_const_iff).mpr (Or.inr measure_Ioo_lt_top)
```
Comment (grunweg) [inline SphereEversion/ToMathlib/MeasureTheory/ParametricIntervalIntegral.lean:205]: This works, but you should be able to use `integrableOn_const` and drop the `mpr` and the `Or.inr`.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have one suggestion for improving this - as I understand, this is waiting for the new Lean version anyway.

**Comment by grunweg** [comment]
Thanks, still looks great!
